Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
agitation
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ year old woman with a history of three prior 
overdose attempts, depression, anxiety, and hypothyroidism who 
presents after overdosing on her prescribed duloxetine last 
night. The patient reported in the ED that she took 1,000 mg of 
her medication between ___ and 2200 last night and drank a 
bottle of wine and one beer because she was feeling especially 
anxious and wanted to "fall asleep and never wake up". However, 
this morning, she woke up and noticed that she was very jittery, 
agitated, nauseated, and that she had intermittent blurry vision 
with dilated pupils. 

In the ED, initial vitals: T 96.7 HR 131 BP 157/105 RR 16 O2 97% 
RA

Exam notable for beats of clonus in both lower extremities, 
patellar hyperreflexia, and tachycardia. 

Labs notable for:
- Normal CK and electrolytes 
- Normal CBC 
- Negative urine hcg 
- Urine tox negative 

Imaging:
None

Patient received:
2L NS
1mg lorazepam

Consults:
- Both psychiatry and toxicology saw the patient in the ED. Per 
psych, she is under section 12A and CANNOT LEAVE AMA. Toxicology 
felt that her exam was consistent with serotonin effects, and 
recommended that IV fluids be stopped, benzodiazepines be given 
for agitation or tachycardia, consult psych, and obtain hcg and 
toxicology studies. 

Vitals on transfer: T 97.9, HR 102, BP 147/84, RR 18, SpO2 100% 
RA 

Upon arrival to ___, pt reports feeling well, though mildly 
agitated. Much better than how she felt on presentation to the 
ED this morning. Denies palpitations, SOB, N/V/D, cough, 
restlessness. No current suicidal ideation. Reports feeling 
guilty that her parents are flying in from ___.
 
Past Medical History:
___'s thyroiditis 
Depression/Anxiety
Prior suicide attempts
 
Social History:
___
Family History:
Older sister with depression, previous SA,alcohol dependence, 
and prior diagnosis of BPD. 
mGM with depression and addiction. 
Maternal Aunt with depression. 
 
Physical Exam:
ADMISSION EXAM
==============
VITALS:  T 99.1, BP 136/103, HR 98, RR 24, SpO2 99/RA
GENERAL:  well-appearing though eyes darting around during 
interview, NAD. Pleasant.
HEENT: Sclera anicteric, horizontal nystagmus. Pupils 5-6mm, 
reactive to light. MM dry. 
NECK: JVP not elevated, no LAD  
LUNGS: CTAB, no W/R/C 
CV: RRR, S1+S2, no M/R/G 
ABD: non-distended, soft, non-tender. Hypoactive bowel sounds.
EXT: WWP, no edema  
SKIN:  no lesions or rashes, skin is dry and warm
NEURO:  moving all 4 extremities with purpose, 2 beats of clonus 
b/l in ___
ACCESS: 1 PIV in LUE

DISCHARGE EXAM
==============
VITALS: Afebrile, VSS.
GENERAL: Alert and in no apparent distress
EYES: MMM grossly nl OP
CV: RRR nl S1/S2 no g/r/m
RESP: Lungs clear to auscultation with good air movement b/l 
EWOB
GI: Abdomen soft, non-distended, non-tender NABS
GU: No suprapubic fullness or tenderness to palpation
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, 
PSYCH: pleasant, appropriate affect; no SI
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:37PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:07AM   LACTATE-2.3*
___ 09:00AM   GLUCOSE-98 UREA N-10 CREAT-0.7 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-25 ANION GAP-16
___ 09:00AM   CK(CPK)-123
___ 09:00AM   ASA-NEG ETHANOL-41* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:00AM   WBC-5.8 RBC-4.24 HGB-12.8 HCT-39.3 MCV-93 
MCH-30.2 MCHC-32.6 RDW-13.5 RDWSD-45.8
___ 09:00AM   NEUTS-64.2 ___ MONOS-6.3 EOS-0.3* 
BASOS-0.5 IM ___ AbsNeut-3.74 AbsLymp-1.66 AbsMono-0.37 
AbsEos-0.02* AbsBaso-0.03
___ 09:00AM   PLT COUNT-268

PERTINENT LABS/MICRO
====================
N/A

DISCHARGE LABS
==============
N/A

IMAGING/STUDIES
===============
N/A

 
Brief Hospital Course:
___ with multiple previous overdose attempts, depression, 
anxiety, and hypothyroidism who presents after overdosing on her 
prescribed duloxetine last night. Placed on ___ by 
psychiatry in the ED. Admitted to the ___ with concern for 
serotonin syndrome. Monitored for 24 hours. Patient remained 
tachycardic, but hemodynamically stable. Cyproheptadine not 
indicated. Lorazepam PRN given for anxiety. Was called out to 
the floor ___. Bed search initiated for inpatient psych 
facility
 
ACTIVE ISSUES  
#SNRI OVERDOSE:
#SEROTONERGIC EFFECT:
Took 1000mg duloxetine with a bottle of wine and one beer. 
Placed on ___ by psychiatry in the ED. Presenting with 
low-grade temps, sinus tachycardia, nystagmus, hyperreflexia, 
2-beat clonus. Seen by toxicology, who felt her presentation was 
consistent with serotonergic effect, but not serotonin syndrome. 
Continued to be tachycardic but has been hemodynamically stable 
since arrival. Cyproheptadine not indicated at this time. Given 
lorazepam 1mg IV PRN agitation. 1:1 sitter. After transfer to 
floor, symptoms improved and patient's exam and mental status 
returned to baseline. 

#DEPRESSION:
#ANXIETY: 
Patient with ongoing personal and family history of depression, 
substance use. Pt with prior suicide attempts. Denied SI 
currently. Evaluated by psych in ED, who placed patient under 
___ and on a 1:1 sitter. After SNRI overdose issues 
completed, patient was declared medically stable for discharge. 
Bed search for inpatient psych bed search was initiated and 
patient discharged to ___. Held duloxetine while 
hospitalized. Did not initiate further psychopharm without 
psychiatry guidance while hospitalized.
 
CHRONIC ISSUES   
#HYPOTHYROIDISM: 
Past medical history of ___'s thyroiditis. On 
levothyroxine as an outpatient. Continued levothyroxine 100mcg 
daily.

TRANSITIONAL ISSUES
# Held duloxetine; not continued through discharge.
# Communication: parents (mother, ___, ___
# Code: Full, confirmed

> 30 minutes spent coordinating discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. DULoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Medication Overdose
Suicide attempt
Depression
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were treated for an intentional overdose of one of your 
prescription depression medications CYMBALTA (DULOXETINE). This 
initially required monitoring in the ICU. You are being 
discharged to inpatient psychiatric care to help manage your 
depression, anxiety and suicidal thinking.

Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if you develop a 
worsening or recurrence of the same symptoms that originally 
brought you to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern you.

It was a pleasure taking care of you!

Your ___ Care Team

 
Followup Instructions:
___